US08604022B2
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(4-methylpiperazin-1-yl)pyridine-2-carboxamide
NaHMDS (1M solution in THF, 0.45 ml, 0.45 μmol, 1.5 eq) was added dropwise to a stirred suspension of tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate (105 mg, 0.301 mmol, 1 eq) and methyl 5-(4-methylpiperazin-1-yl)pyridine-2-carboxylate (85 mg, 0.361 mmol, 1.2 eq) in dry THF (2.5 ml) under nitrogen. The solution was stirred at room temperature for 1 h. The solution was neutralised with satd. aq. NH4Cl and diluted with water (5 ml). The aqueous phase was extracted with ethyl acetate (3×8 ml) and the combined organic extracts were dried over MgSO4, filtered and evaporated. The reaction was repeated as above on a 0.338 mmol scale. The crude extracts were combined with those above and purified on by silica column chromatography, eluting with 0-6% MeOH in DCM, to afford the title compound as a pale brown solid (92 mg, 35% yield); 1H NMR (399.902 MHz, DMSO) δ 2.25 (s, 3H), 2.45-2.50 (m, 4H), 3.37-3.43 (m, 4H), 3.75 (s, 6H), 5.08 (s, 2H), 5.88 (bs, 1H), 6.45 (t, 1H), 6.60 (d, 2H), 7.45-7.49 (m, 1H), 7.94 (d, 1H), 8.35 (d, 1H), 10.89 (bs, 1H), 11.36 (bs, 1H) MS: m/z 453 (MH+)

reactant | tert-butyl 5-amino-3-[(3,5-dimethoxyphenyl)methoxy]pyrazole-1-carboxylate | 0.301 mmol, 105 mg, 1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)OCC1=CC(=CC(=C1)OC)OC | C17H23N3O5
reactant | methyl 5-(4-methylpiperazin-1-yl)pyridine-2-carboxylate | 0.361 mmol, 85 mg, 1.2 eq | CN1CCN(CC1)C=1C=CC(=NC1)C(=O)OC | C12H17N3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
catalyst | NaHMDS | 0.45 μmol, 1M, 0.45 ml, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(4-methylpiperazin-1-yl)pyridine-2-carboxamide | 92 mg, 35% yield | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(=O)C1=NC=C(C=C1)N1CCN(CC1)C | C23H28N6O4
